US04435567
A mixture of 1.0 g cyclohexylamine and 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 20 ml aceton, under stirring. The reaction mixture was stirred for 80 minutes at room temperature, then diluted with 150 ml water. The precipitated solid product was cooled, filtered, washed with water and dried. 1.0 g 1-phenyl-3-cyclohexylurea was obtained with a melting point of from 182° to 184° C.

reactant | cyclohexylamine | 1.0 g | C1(CCCCC1)N | C6H13N
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | aceton | 20 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | 1-phenyl-3-cyclohexylurea | 1.0 g | C1(=CC=CC=C1)NC(=O)NC1CCCCC1 | C13H18N2O
